US06025489
4,9-Diethyl-2-(2-ethyl-1H-imidazol-1-yl)imidazo[5,1-h]pteridin-6(5H)-one (5.0 g, 15 mmol) is heated with 50 g of imidazole at 200° C. under N2 for 16 hours. The reaction mixture is cooled to -100° C. and 150 mL of methanol is added. The solids are filtered and washed with methanol to provide 4,9-diethyl-2-(1H-imidazol-1-yl)imidazo[5,1-h]pteridin-6(5H)-one.

reactant | 4,9-Diethyl-2-(2-ethyl-1H-imidazol-1-yl)imidazo[5,1-h]pteridin-6(5H)-one | 15 mmol, 5.0 g | C(C)C1=NC(=NC=2N3C(C(NC12)=O)=CN=C3CC)N3C(=NC=C3)CC | C17H19N7O
reactant | imidazole | 50 g | N1C=NC=C1 | C3H4N2
solvent | methanol | 150 mL | CO | CH4O
product | 4,9-diethyl-2-(1H-imidazol-1-yl)imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC(=NC=2N3C(C(NC12)=O)=CN=C3CC)N3C=NC=C3 | C15H15N7O
